* C:\Users\CheeLoong\Github\ElectricalEngineering\LTSpice\ECE331\Lab1\Lab1_1_4_Soon_Wang.asc
M1 Vout Vg 0 0 ALD1101 W=1.379e-3 L=1E-6
Vin Vg 0 1.3
Vdd N001 0 5
Rd N001 Vout 2166
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.dc Vin 0 5 0.01
.lib C:\Users\CheeLoong\Github\ElectricalEngineering\LTSpice\ECE331\Lab1\ECE331_354.lib
;op
.backanno
.end
