* C:\Users\CheeLoong\Github\ElectricalEngineering\LTSpice\ECE331\Lab1\Lab1_1_6_Soon_Wang.asc
M1 Vout Vin 0 0 ALD1101 W=1.379e-3 L=1E-6
Vin Vin 0 SINE(1.36 5m 1k)
Vdd N001 0 5
Rd N001 Vout 2166
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
;dc Vin 0 5 0.01
.lib C:\Users\CheeLoong\Github\ElectricalEngineering\LTSpice\ECE331\Lab1\ECE331_354.lib
;op
.tran 0 0.05 0 0.1
.backanno
.end
